US07598423B2
Synthesis of 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid thiosemicarbazide
Add oxalyl chloride (0.660 mg, 5.20 mmol) to a solution of 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid, 1.00 g, 2.04 mmol) in tetrahydrofuran (0.20M). Add dimethylformamide (5 drops). Add pyridine (0.322 g, 4.08 mmol) and thiosemicarbazide (0.223 g, 2.45 mmol). Stir the reaction overnight. Evaporate solvents. Dissolve brown tar in acetone/water. Extract with CH2Cl2 (3×) and ethyl acetate (3×). Combine organic extracts, dry and concentrate to afford the title compound, which was used without further purification (1.20 g, 2.04 mmol, 99%): MS (m/z): 563 (M−H).

reactant | oxalyl chloride | 5.20 mmol, 0.660 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC2OCCCC2)C=C1)C)O | C29H30O7
reactant | pyridine | 4.08 mmol, 0.322 g | N1=CC=CC=C1 | C5H5N
reactant | thiosemicarbazide | 2.45 mmol, 0.223 g | NNC(=S)N | CH5N3S
solvent | tetrahydrofuran | 0.20M | O1CCCC1 | C4H8O
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | acetone water | CC(=O)C.O
product | 3-[[4-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid thiosemicarbazide | NNC(=S)N.C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC2OCCCC2)C=C1)C)O | InChI=1S/C29H30O7.CH5N3S/c1-18-25(14-13-24(19(2)30)27(18)31)35-17-20-9-11-21(12-10-20)28(36-26-8-3-4-15-34-26)22-6-5-7-23(16-22)29(32)33;2-1(5)4-3/h5-7,9-14,16,26,28,31H,3-4,8,15,17H2,1-2H3,(H,32,33);3H2,(H3,2,4,5)
